US07223738B2
4-(3-Phenyl-1,8-naphthyridin-2-yl)benzoic acid (9-1)
4-(Phenylacetyl)benzoic acid (1.0 g, 4.16 mmole) and 2-aminonicotinaldehyde (508 mg, 4.16 mmole) were combined in HOAc (5 mL) in a sealed microwave vessel. The mixture was microwave irradiated to 200° C. internal temperature for 2 hr. The mixture was concentrated. Flash column (5% MeOH/CH2Cl2) gave the title compound as a pale yellow solid (9-1): 1H-NMR (500 MHz, DMSO-d6) δ 13.05 (bs, 1 H), 9.15 (dd, J=1.95, 2.20 Hz, 1 H), 8.58 (m, 2 H), 7.88 (d, J=8.06 Hz, 2 H), 7.71 (m, 1 H), 7.53 (d, J=8.05 Hz, 2 H), 7.36 (m, 3 H), 7.30 (m, 2 H).

reactant | 4-(Phenylacetyl)benzoic acid | 4.16 mmole, 1.0 g | C1(=CC=CC=C1)CC(=O)C1=CC=C(C(=O)O)C=C1 | C15H12O3
reactant | 2-aminonicotinaldehyde | 4.16 mmole, 508 mg | NC1=C(C=O)C=CC=N1 | C6H6N2O
solvent | HOAc | 5 mL | CC(=O)O | C2H4O2
product | 4-(3-Phenyl-1,8-naphthyridin-2-yl)benzoic acid | C1(=CC=CC=C1)C=1C(=NC2=NC=CC=C2C1)C1=CC=C(C(=O)O)C=C1 | C21H14N2O2
